US04112103
A solution of 18.9 g. of cis-1-(3-chloropropyl)-2,6-dimethylpiperidine in 50 ml. of tetrahydrofuran is added dropwise under a nitrogen atmosphere to a stirred mixture of 1.4 g. of lithium wire and 50 ml. of tetrahydrofuran over a period of 2 hours. After the addition is complete, the mixture is stirred another 4 hours under nitrogen, the excess lithium metal removed manually and a solution of 18.3 g. of 2-benzoylpyridine in 100 ml. of tetrahydrofuran is added dropwise with stirring over a period of 2 hours. The mixture is stirred for 16 hours, then treated with 5 ml. of water. The organic phase is decanted from the precipitated solid and evaporated at reduced pressure to about one-fourth its previous volume. This solution is poured into 400 ml. of water, the solution is acidified with acetic acid and washed with ether. The aqueous acid solution is basified with aqueous sodium hydroxide and extracted with ether. The ether extract is washed with water, dried and evaporated to give (+,-)-cis-α-[3-(2,6-dimethyl-1-piperidinyl)propyl]-α-phenyl-2-pyridinemethanol; m.p. (monohydrate) 100°-102° C. after crystallization from aqueous methanol.

reactant | cis-1-(3-chloropropyl)-2,6-dimethylpiperidine | ClCCCN1[C@H](CCC[C@H]1C)C | C10H20ClN
reactant | lithium | [Li] | Li
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
product | (+,-)-cis-α-[3-(2,6-dimethyl-1-piperidinyl)propyl]-α-phenyl-2-pyridinemethanol | C[C@@H]1N([C@@H](CCC1)C)CCCC(O)(C1=NC=CC=C1)C1=CC=CC=C1 | C22H30N2O
